### PR TITLE
pseudometric alias

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype_theory/normed_module.v [hunk 1]
```diff
@@ -223,6 +230,95 @@ Module Exports. Export numFieldTopology.Exports. HB.reexport. End Exports.
 End numFieldNormedType.
 Import numFieldNormedType.Exports.
 
+Definition pseudoMetric_normed (K : numFieldType) (M : normedZmodType K) : Type
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]: Is there not `pseudometric` somewhere? If so, why do we need to change the alias?

File: theories/normedtype_theory/normed_module.v [hunk 2]
```diff
@@ -223,6 +230,95 @@ Module Exports. Export numFieldTopology.Exports. HB.reexport. End Exports.
...
+by rewrite scaler_nat.
+Qed.
+
+Lemma normrN x : norm (- x) = norm x.
+Proof. by have := normrZ (- 1)%R x; rewrite scaleN1r normrN normr1 mul1r. Qed.
+
+HB.instance Definition _ := Num.Zmodule_isNormed.Build
+  R M ler_normD normr0_eq0 normrMn normrN.
+
+(*HB.saturate pseudoMetric_normed.*)
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]: Do we want to keep this?

File: theories/normedtype_theory/normed_module.v [hunk 3]
```diff
@@ -223,6 +230,95 @@ Module Exports. Export numFieldTopology.Exports. HB.reexport. End Exports.
...
 Import numFieldNormedType.Exports.
 
+Definition pseudoMetric_normed (K : numFieldType) (M : normedZmodType K) : Type
+  := M.
+
+HB.instance Definition _ (K : numFieldType) (M : normedZmodType K) :=
+  Choice.on (pseudoMetric_normed M).
+HB.instance Definition _ (K : numFieldType) (M : normedZmodType K) :=
+  Num.NormedZmodule.on (pseudoMetric_normed M).
+(*HB.instance Definition _ (K : numFieldType) (M : normedZmodType K) :=
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]: This does not do anything, so we can probably remove it.

File: theories/normedtype_theory/normed_module.v [hunk 4]
```diff
@@ -223,6 +230,95 @@ Module Exports. Export numFieldTopology.Exports. HB.reexport. End Exports.
...
+  isPointed.Build M 0.*)
+
+Section pseudoMetric_from_normedZmodType.
+Variables (K : numFieldType) (M : normedZmodType K).
+
+Notation T := (pseudoMetric_normed M).
+
+Local Definition ball (x : T) (r : K) : set T := ball_ Num.norm x r.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]: These definitions leak in the rest of the file (e.g. in `ball_open`. We may need to hide them in a module.

File: theories/normedtype_theory/normed_module.v (hunk 1 above)
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
Definition pseudoMetric_normed (M : Type) : Type
```

File: theories/normedtype_theory/normed_module.v [hunk 5]
```diff
@@ -223,6 +230,95 @@ Module Exports. Export numFieldTopology.Exports. HB.reexport. End Exports.
...
+Proof. by constructor. Qed.
+
+HB.instance Definition _ := NormedZmod_PseudoMetric_eq_pseudometric.
+
+Lemma PseudoMetricNormedZmod_Lmodule_isNormedModule_pseudometric
+  : PseudoMetricNormedZmod_Lmodule_isNormedModule R M.
+Proof. by constructor; exact: normrZ. Qed.
+
+HB.instance Definition _ :=
+  PseudoMetricNormedZmod_Lmodule_isNormedModule_pseudometric.
```
Comment (Tragicus) [inline theories/normedtype_theory/normed_module.v]:
```suggestion
HB.instance Definition _ := NormedZmod_PseudoMetric_eq.Build R M erefl.
HB.instance Definition _ :=
  PseudoMetricNormedZmod_Lmodule_isNormedModule.Build R M normrZ.
```

File: theories/normedtype_theory/normed_module.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/normedtype_theory/normed_module.v]: I looked at existing aliases (e.g., `pseudoMetric_bool` in `bool_topology.v`) and observed that they had more elaborated names, so I concluded that a name that better explains the input and the output could be more appropriate, hence the name change.

File: theories/normedtype_theory/normed_module.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/normedtype_theory/normed_module.v]: Let's remove the comment. (I think that it used to be useful but I don't remember in which circumstances anymore.)

File: theories/normedtype_theory/normed_module.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/normedtype_theory/normed_module.v]: Typo?

Comment (affeldt-aist) [reply theories/normedtype_theory/normed_module.v]: arg, not a good example since this precise example might actually be useless, see issue #1636

Comment (Tragicus) [reply theories/normedtype_theory/normed_module.v]: Ah, yes, thanks, fixed.
